US04049812
A solution of 0.3 g. of [2-(2-pyridinecarbonyl)-phenyl]azo-(2-chloroacetamido)acetamide and 0.82 g. of 2-methylimidazole in 12ml. of ethanol is refluxed for one hour and then cooled. The precipitated crystals are collected by filtration to give 1-[2-(2-pyridinecarbonyl)phenyl]-5-chloromethyl-1H-1,2,4-triazole-3-carboxamide as crystals. Recrystallization from chloroform-ethanol gives colorless needles, melting at 228° to 229° C. (decomposition).

reactant | [2-(2-pyridinecarbonyl)-phenyl]azo-(2-chloroacetamido)acetamide | N1=C(C=CC=C1)C(=O)C1=C(C=CC=C1)N=NC(C(=O)N)NC(CCl)=O | C16H14ClN5O3
reactant | 2-methylimidazole | CC=1NC=CN1 | C4H6N2
solvent | ethanol | C(C)O | C2H6O
product | 1-[2-(2-pyridinecarbonyl)phenyl]-5-chloromethyl-1H-1,2,4-triazole-3-carboxamide | N1=C(C=CC=C1)C(=O)C1=C(C=CC=C1)N1N=C(N=C1CCl)C(=O)N | C16H12ClN5O2
